US08030497B2
b) 2-Chloro-1-methoxy-3-nitro-benzene
To a mixture consisting of 15.5 g (92.26 mmol) 2-methoxy-6-nitro-phenylamine, 31 ml water and 31 ml conc. HCl, a solution of 6.36 g (92.26 mmol) NaNO2 in 38 ml water is slowly added dropwise at −10° C.-0° C. After stirring for 0.5 h the mixture is slowly added to a solution of 11.88 g (120 mmol) CuCl in 93 ml conc. HCl. After completion of the addition stirring is continued for 1.5 h at room temperature and for 0.5 h at reflux temperature. The reaction mixture is allowed to cool to room temperature and is poured on water and extracted (3×) with ethyl acetate. The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=3:1) to afford 12.69 of the title compound as a crystalline solid.

reactant | 2-methoxy-6-nitro-phenylamine | 92.26 mmol, 15.5 g | COC1=C(C(=CC=C1)[N+](=O)[O-])N | C7H8N2O3
reactant | NaNO2 | 92.26 mmol, 6.36 g | N(=O)[O-].[Na+]
reactant | HCl | 93 ml | Cl | ClH
reactant | HCl | 31 ml | Cl | ClH
solvent | water | 38 ml | O | H2O
catalyst | CuCl | 120 mmol, 11.88 g | Cl[Cu]
solvent | water | 31 ml | O | H2O
product | 2-Chloro-1-methoxy-3-nitro-benzene | ClC1=C(C=CC=C1[N+](=O)[O-])OC | C7H6ClNO3
